US05753664
To a solution of 5-ethyl-6-mercapto-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one potassium (5.0 g) in DMF (40 ml) was added methyl iodide (3.65 g) and the mixture was stirred for 1 hour. This reaction mixture was concentrated and the residue was diluted with water. The resulting crystals were collected by filtration and rinsed with water to provide 5-ethyl-6-methylthio-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one as colorless solid (2.908 g).

reactant | 5-ethyl-6-mercapto-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one potassium | 5.0 g | [K].C(C)N1C(=NC2=C(C1=O)C=NN2)S
reactant | methyl iodide | 3.65 g | CI | CH3I
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-ethyl-6-methylthio-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | 2.908 g | C(C)N1C(=NC2=C(C1=O)C=NN2)SC | C8H10N4OS
